US07982036B2
To a stirred solution of N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide (50 mg, 0.11 mmol) in THF (0.5 mL) at 0° C. was added 2-methylpropenylmagnesium bromide (1.1 mL, 0.55 mmol, 0.5 M in THF). The reaction mixture was allowed to stir at room temperature for 30 min. It was quenched with sat. NH4Cl solution (0.5 mL) and was extracted with EtOAc (3×2 mL). The combined organic layer was washed with brine, was dried over anhydrous Na2SO4, was filtered and was concentrated under reduced pressure to give a white solid, which was further purified by column chromatography (SiO2, 60-120, chloroform/methanol, 9/1) to give 3-methyl-1-(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)phenyl)but-2-en-1-one (I-87) as an off white solid. 1H NMR (CDCl3) δ ppm: 2.01 (s, 3H), 2.20 (s, 3H), 6.14 (s, 1H), 6.71 (s, 1H), 6.95 (s, 1H), 6.99-7.02 (m, 5H), 7.11 (t, J=7.36 Hz, 1H), 7.26-7.28 (m, 2H), 7.34 (t, J=7.56 Hz, 2H), 7.40-7.53 (m, 2H), 7.65 (d, J=7 Hz, 1H), 7.86 (s, 1H), 8.32 (s, 1H); LCMS: m/e 437.2 (M+1).

reactant | N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide | 0.11 mmol, 50 mg | CON(C(C1=CC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H23N5O3
reactant | 2-methylpropenylmagnesium bromide | 0.55 mmol, 0.5 M, 1.1 mL | CC(=C[Mg]Br)C
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-methyl-1-(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)phenyl)but-2-en-1-one | CC(=CC(=O)C1=CC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1)C | C27H24N4O2
